US06562978B1
t-Butyl 4-(1H-Benzimidazol-1-ylmethyl)-1-piperidinecarboxylate
t-Butyl 4-methylsulfonyloxymethyl-1-piperidinecarboxylate (0.50 g, 1.7 mmol) was dissolved in dimethylformamide (8 ml). To the solution were added potassium iodide (0.37 g), benzimidazole (0.26 g) and 60% sodium hydride in mineral oil (0.088 g), successively, and the mixture was stirred at 60° C. for 2 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate twice. The organic layer was washed with water three times, dried over magnesium sulfate and concentrated under reduced pressure. The resulting solid materials were recrystallized from ethyl acetate/hexane to give the titled compound (0.45 g, 1.4 mmol, Yield 82%).

reactant | t-Butyl 4-methylsulfonyloxymethyl-1-piperidinecarboxylate | 1.7 mmol, 0.50 g | CS(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
reactant | potassium iodide | 0.37 g | [I-].[K+]
reactant | benzimidazole | 0.26 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | t-Butyl 4-(1H-Benzimidazol-1-ylmethyl)-1-piperidinecarboxylate | 1.4 mmol, 0.45 g, Yield 82% | N1(C=NC2=C1C=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C | C18H25N3O2
